US06323235B1
3-(2-propenyl)-7-methoxybenzofuran
Cerium chloride (5.63 g) was placed in a dry eggplant type flask, and stirred at 150° C. under reduced pressure for 4 hours to dry. After replacing the atmosphere with nitrogen, the reaction mixture was cooled to room temperature. THF (30 ml) was added and the flask was left to stand overnight. The reaction mixture was cooled to 0° C. and allylmagnesium bromide (0.79 M solution in ether, 28.9 ml) was added dropwise. To this, 2,3-dihydro-3-oxo-7-methoxybenzofuran (2.5 g) was added and the resulting mixture was stirred at 0° C. for 1.5 hours. The reaction solution was poured into water (200 ml) and acetic acid (3 ml), and the resultant was extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium hydrogen carbonate solution and with saturated brine, followed by drying the resultant over sodium sulfate. After removing sodium sulfate by filtration, the solvent was evaporated off to obtain brown syrup (4.52 g). This syrup (4.52 g) was dissolved in benzene (20 ml) and p-toluenesulfonic acid monohydrate (50 mg) was added to the solution, followed by stirring the resulting solution at 60° C. for 30 minutes. The reaction solution was poured into 5% sodium hydrogen carbonate solution, and extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium hydrogen carbonate solution and with saturated brine, followed by drying the resultant over sodium sulfate. After removing the sodium sulfate by filtration, the solvent was removed under reduced pressure and the residue was purified by column chromatography (solvent: cyclohexane/diethyl ether=5/1-2/1) using silica gel. The main fraction was further purified by column chromatography (solvent: n-hexane/ethyl acetate=20/1) to obtain the desired compound (2.05 g, yield: 72%).

reactant | p-toluenesulfonic acid monohydrate | 50 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | benzene | 20 ml | C1=CC=CC=C1 | C6H6
product | 3-(2-propenyl)-7-methoxybenzofuran | 2.05 g, yield: 72% | C(C=C)C1=COC2=C1C=CC=C2OC | C12H12O2
